US06410555B1
3-Nitro-5,6,7,8-tetrahydro-6,8,8-trimethyl[1,6]naphthyridine
3,5-Dinitro-1-methylpyridin-2-one [prepared by the method of E. Matsumura, M. Ariga and Y. Tohda. Bull. Chem. Soc. Japan, 1979, 52, 2413-2419] (2 g; 10 mmol) was suspended in MeOH (50 ml) and treated with 0.88 aq, ammonia (10 ml; 157 mmol). 1,3,3-Trimethylpiperidin-4-one (1.7 g; 12 mmol) was added and the mixture heated at 70° C. for 5 h. The mixture was cooled to room temperature then evaporated to dryness in vacuo. The residue was digested with dichloromethane (2×50 ml) and the hot solution decanted from the red gum. The extracts were combined, evaporated to dryness in vacuo and the residue purified by chromatography on SiO2, with 50% ethyl acetate: 60-80° C. petroleum to give the title compound as a yellow oil, which solidified on standing (1.05 g; 48%).

reactant | 3,5-Dinitro-1-methylpyridin-2-one | [N+](=O)([O-])C=1C(N(C=C(C1)[N+](=O)[O-])C)=O | C6H5N3O5
reactant | ammonia | 157 mmol, 10 ml | N | H3N
reactant | 1,3,3-Trimethylpiperidin-4-one | 12 mmol, 1.7 g | CN1CC(C(CC1)=O)(C)C | C8H15NO
solvent | MeOH | 50 ml | CO | CH4O
product | 3-Nitro-5,6,7,8-tetrahydro-6,8,8-trimethyl[1,6]naphthyridine | [N+](=O)([O-])C=1C=NC=2C(CN(CC2C1)C)(C)C | C11H15N3O2
